US09388161B2
Hydrogen chloride (4.0 N in 1,4-dioxane, 0.23 mL, 0.931 mmol) was added to a solution of (S)-methyl 6-(1-((3S,4R)-1-(tert-butoxycarbonyl)-3-fluoropiperidin-4-yl)-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (101 mg, 0.186 mmol) in 1,4-dioxane (1.0 mL), and the reaction mixture stirred at room temperature for 3 h. The reaction solution was concentrated under a stream of nitrogen, diluted with saturated aqueous sodium bicarbonate (1 mL) and extracted with ethyl acetate (3×1 mL). The combined organic layers were added directly to a plug of silica gel and eluted with 30% ethyl acetate in methanol to afford methyl (S)-5-cyclobutoxy-6-(1-((3S,4R)-3-fluoropiperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (38 mg, 47%) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.07 (d, J=6.45 Hz, 3H), 1.19-1.39 (m, 2H), 1.47-1.58 (m, 1H), 1.96-2.18 (m, 8H), 2.34-2.43 (m, 2H), 2.55-2.72 (m, 1H), 2.77-2.89 (m, 2H), 3.00-3.13 (m, 1H), 3.14 (br d, J=4.98 Hz, 1H), 3.65 (s, 3H), 4.02-4.12 (m, 1H), 4.37-4.49 (m, 1H), 4.78-4.94 (m, 1H), 7.21 (d, J=8.50 Hz, 1H), 7.32 (d, J=8.79 Hz, 1H), 7.83 (s, 1H), 8.02 (s, 1H). MS (ESI, pos. ion) m/z 443 [M+H]+.

reactant | Hydrogen chloride | 0.931 mmol, 4.0 N, 0.23 mL | Cl | ClH
reactant | (S)-methyl 6-(1-((3S,4R)-1-(tert-butoxycarbonyl)-3-fluoropiperidin-4-yl)-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.186 mmol, 101 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@@H](CC1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1)F | C29H39FN4O5
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | methyl (S)-5-cyclobutoxy-6-(1-((3S,4R)-3-fluoropiperidin-4-yl)-1H-pyrazol-4-yl)-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 38 mg, 47% | C1(CCC1)OC1=C2CC[C@@H](N(C2=CC=C1C=1C=NN(C1)[C@H]1[C@H](CNCC1)F)C(=O)OC)C | C24H31FN4O3
